US07683203B2
<Step 2> Synthesis of benzyloxy-2-ethylbenzene
To a reactor were charged 8.77 g (71 mmol) of 2-ethylphenol, 10.00 g (79 mmol) of benzyl chloride, 8.06 g (144 mmol) of KOH, and 30 g of DMF, and the mixture was stirred at 65° C. to 85° C. for 3 hours. To this mixture, 55 g of hydrochloric acid and 50 g of toluene were added, the organic layer was washed with water, and the solvent was evaporated. The residue was purified by column chromatography (n-hexane) to yield the desired product, 1-benzyloxy-2-ethylbenzene, as colorless liquid (9.23 g, Yield: 61%).

reactant | 2-ethylphenol | 71 mmol, 8.77 g | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | benzyl chloride | 79 mmol, 10.00 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | KOH | 144 mmol, 8.06 g | [OH-].[K+]
reactant | hydrochloric acid | 55 g | Cl | ClH
solvent | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 30 g | CN(C)C=O | C3H7NO
product | 1-benzyloxy-2-ethylbenzene | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CC | C15H16O
